.subckt NOR2x1 A B Y VDD VSS
* Parallel NMOS
mn1 Y A VSS VSS nmos_lvt l=16n nfin=2
mn2 Y B VSS VSS nmos_lvt l=16n nfin=2
* Series PMOS: VDD → A → mid_p → B → Y
mp1 mid_p A VDD VDD pmos_lvt l=16n nfin=2
mp2 Y B mid_p VDD pmos_lvt l=16n nfin=2
Cext_Y Y 0 0.070f
Cext_A A 0 0.035f
Cext_B B 0 0.035f
Cext_mid mid_p 0 0.040f
.ends NOR2x1
