.subckt OAI21x1 A0 A1 B Y VDD VSS
* NMOS: A0-A1 parallel + B series
mn_a0 mid_n A0 VSS VSS nmos_lvt l=16n nfin=2
mn_a1 mid_n A1 VSS VSS nmos_lvt l=16n nfin=2
mn_b Y B mid_n VSS nmos_lvt l=16n nfin=2
* PMOS: A0-A1 series, B parallel
mp_a0 mid_p A0 VDD VDD pmos_lvt l=16n nfin=2
mp_a1 Y A1 mid_p VDD pmos_lvt l=16n nfin=2
mp_b Y B VDD VDD pmos_lvt l=16n nfin=2
Cext_Y Y 0 0.090f
Cext_A0 A0 0 0.035f
Cext_A1 A1 0 0.035f
Cext_B B 0 0.035f
Cext_mid_n mid_n 0 0.040f
Cext_mid_p mid_p 0 0.040f
.ends OAI21x1
