* XOR2x2 PPA characterization — A->Y path, B=0, 0.40V SLVT
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/nmos_slvt_tt_cal.pm'
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/pmos_slvt_tt_cal.pm'

.OPTIONS DEVICE GMIN=1e-12
.OPTIONS NONLIN RELTOL=1e-4 ABSTOL=1e-9
.OPTIONS TIMEINT METHOD=trap RELTOL=1e-3 ABSTOL=1e-12
.OPTIONS MEASURE MEASDGT=5

.param vdd_val = 0.40
.param slew_val = 100p
.param load_val = 1f

VDD vdd 0 DC {vdd_val}
VSS vss 0 DC 0

.param actual_slew = {slew_val * 1.667}
VA in_a 0 PULSE(0 {vdd_val} 200p {actual_slew} {actual_slew} 500p 1400p)

VB in_b 0 DC 0

.include '/Users/bruce/CLAUDE/asap5/charflow/extraction/XOR2x2_slvt.spice'
X1 in_a in_b Y vdd vss XOR2x2_SLVT

CLOAD Y 0 {load_val}

.TRAN 500f 2.8n

* Delay measurements (B=0: Y=~A, inverting)
.MEASURE TRAN cell_fall TRIG V(in_a) VAL={vdd_val*0.5} RISE=1
+                       TARG V(Y) VAL={vdd_val*0.5} FALL=1
.MEASURE TRAN cell_rise TRIG V(in_a) VAL={vdd_val*0.5} FALL=1
+                       TARG V(Y) VAL={vdd_val*0.5} RISE=1

* Transition measurements
.MEASURE TRAN fall_transition TRIG V(Y) VAL={vdd_val*0.8} FALL=1
+                             TARG V(Y) VAL={vdd_val*0.2} FALL=1
.MEASURE TRAN rise_transition TRIG V(Y) VAL={vdd_val*0.2} RISE=1
+                             TARG V(Y) VAL={vdd_val*0.8} RISE=1

* Energy: integrate supply current over one full cycle
.MEASURE TRAN fall_charge INTEG I(VDD) FROM=200p TO=900p
.MEASURE TRAN rise_charge INTEG I(VDD) FROM=900p TO=1600p

* Average tpd
.MEASURE TRAN tpd_avg PARAM = {(ABS(cell_fall)+ABS(cell_rise))/2}

* Total switching energy = |charge| * VDD
.MEASURE TRAN total_charge PARAM = {ABS(rise_charge)+ABS(fall_charge)}
.MEASURE TRAN energy PARAM = {total_charge * vdd_val}

.END
